US05602252
4-((2-(Diethylamino)cyclohexyl)amino)-9-ethylimidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of 4,6-dichloro-5-nitropyrimidine with N-benzyl-2-(diethylamino)cyclohexylamine, followed by reaction with 2-ethylimidazole, reduction with tin (II) chloride, cyclization with carbonyldiimidazole and debenzylation with refluxing 5N HCl for 3 h.

reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | N-benzyl-2-(diethylamino)cyclohexylamine | C(C1=CC=CC=C1)NC1C(CCCC1)N(CC)CC | C17H28N2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 5N | Cl | ClH
product | 4-((2-(Diethylamino)cyclohexyl)amino)-9-ethylimidazo[5,1-h]pteridin-6(5H)-one | C(C)N(C1C(CCCC1)NC1=NC=NC=2N3C(C(NC12)=O)=CN=C3CC)CC | C20H29N7O
